US09302991B2
<Step-1>: methyl 6-methyl-4-((1-(3-(trifluoromethoxy)phenyl)ethyl)carbamoyl)picolinate (single enantiomer
The title compound is prepared from (+)-1-(3-(trifluoromethoxy)phenyl)ethanamine (Amine-9) and 2-(methoxycarbonyl)-6-methylisonicotinic acid by the similar manner in Step-1 of Example 8.

reactant | (+)-1-(3-(trifluoromethoxy)phenyl)ethanamine | FC(OC=1C=C(C=CC1)C(C)N)(F)F | C9H10F3NO
reactant | 2-(methoxycarbonyl)-6-methylisonicotinic acid | COC(=O)C=1C=C(C(=O)O)C=C(N1)C | C9H9NO4
product | methyl 6-methyl-4-((1-(3-(trifluoromethoxy)phenyl)ethyl)carbamoyl)picolinate | CC1=CC(=CC(=N1)C(=O)OC)C(NC(C)C1=CC(=CC=C1)OC(F)(F)F)=O | C18H17F3N2O4
